US08470859B2
1-(3,5-dichlorobenzyl)-2imino-1,2-dihydropyridine-3-carboxamide hydrochloride
To a solution of 2-aminonicotinamide (0.18 g) in N,N-dimethylformamide (3 ml) was added 3,5-dichlorobenzyl chloride (0.31 g), and the mixture was stirred at 80° C. for 14 hr. The reaction mixture was diluted with ethyl acetate. The precipitate was collected by filtration and washed with ethyl acetate. The obtained precipitate was recrystallized from methanol-ethyl acetate to give the title compound (0.10 g).

reactant | 2-aminonicotinamide | 0.18 g | NC1=C(C(=O)N)C=CC=N1 | C6H7N3O
reactant | 3,5-dichlorobenzyl chloride | 0.31 g | ClC=1C=C(CCl)C=C(C1)Cl | C7H5Cl3
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3,5-dichlorobenzyl)-2imino-1,2-dihydropyridine-3-carboxamide hydrochloride | 0.10 g | Cl.ClC=1C=C(CN2C(C(=CC=C2)C(=O)N)=N)C=C(C1)Cl | InChI=1S/C13H11Cl2N3O.ClH/c14-9-4-8(5-10(15)6-9)7-18-3-1-2-11(12(18)16)13(17)19;/h1-6,16H,7H2,(H2,17,19);1H
